US05026874
To a stirred solution of 1-(hex-5-ynyl)-4-n-propyl-2,6,7-trithiabicyclo[2.2.2]octane-2-oxide (0.302 g.) in dry acetone (120 ml) containing anhydrous magnesium sulphate (0.75 g) at -20° C. was added a solution of potassium permanganate (0.24 g) in dry acetone (25 ml). The mixture was allowed to warm to 20° and stirred for 72 hours. The colourless mixture was filtered through kieselguhr and the solid residue was washed with acetone. The filtrates were evaporated in vacuo and a colourless solid residue was obtained. The residue was purified by chromatography on silica eluting with dichloromethane. 1-(Hex-5-ynyl)-4-n-propyl-2,6,7-trithiabicyclo[2.2.2]octane-2,2-dioxide was obtained as a colourless solid (100 mg).

reactant | 1-(hex-5-ynyl)-4-n-propyl-2,6,7-trithiabicyclo[2.2.2]octane-2-oxide | 0.302 g | C(CCCC#C)C12S(CC(CS1)(CS2)CCC)=O | C14H22OS3
reactant | magnesium sulphate | 0.75 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | potassium permanganate | 0.24 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 120 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 1-(Hex-5-ynyl)-4-n-propyl-2,6,7-trithiabicyclo[2.2.2]octane-2,2-dioxide | C(CCCC#C)C12S(CC(CS1)(CS2)CCC)(=O)=O | C14H22O2S3
